US03963691
Preparation of Pyroglu-His-Trp-Ser-Tyr-OMe
The reaction solution containing pyroglu-his azide, prepared as described in Example 22, is cooled to a temperature of -40°C., and to this is added a solution of 1.1 g. of trp-ser-tyr-OMe trifluoroacetate, as prepared in Example 4, 5, 6 and 7, in 4 ml. of degassed dimethylformamide. The pH of the resulting solution is adjusted to 8.0 by the addition of diisopropylethylamine, and the mixture is maintained at a temperature of -5°C. (with periodic adjustment of the pH to 8.0 by addition of diisopropylethylamine) for a period of 18 hours, at the end of which time the reaction to form the pentapeptide is substantially complete as shown by thin layer chromatography on silica gel G using the solvent system ethyl acetate-pyridine-acetic acid-water (10:5:1:3). The reaction solution is evaporated in vacuo; the residual material is dissolved in 50 ml. butanol; the butanol solution is washed with three 25 ml.-portions of water; the combined water washings are extracted with six 10 ml.-portions of butanol; and the combined butanol solutions are evaporated to a small volume. The crystalline material which precipitates is recovered by filtration, dried and further purified by chromatography on a silica gel column to give 0.5 g. of substantially pure pyroglu-his-trp-ser-tyr-OMe.

reactant | ethyl acetate pyridine-acetic acid water | C(C)(=O)OCC.N1=C(C=CC=C1)CC(=O)O.O
reactant | pyroglu-his trp-ser tyr-OMe | C1CC(=O)NC1C(=O)NC(CC2=CN=CN2)C(=O)O.C1=CC=C2C(=C1)C(=CN2)CC(C(=O)NC(CO)C(=O)O)N.COC(=O)[C@H](CC1=CC=C(C=C1)O)N
product | Pyroglu-His Trp-Ser-Tyr-OMe | C1CC(=O)NC1C(=O)NC(CC2=CN=CN2)C(=O)O.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC | InChI=1S/C24H28N4O6.C11H14N4O4/c1-34-24(33)20(10-14-6-8-16(30)9-7-14)27-23(32)21(13-29)28-22(31)18(25)11-15-12-26-19-5-3-2-4-17(15)19;16-9-2-1-7(14-9)10(17)15-8(11(18)19)3-6-4-12-5-13-6/h2-9,12,18,20-21,26,29-30H,10-11,13,25H2,1H3,(H,27,32)(H,28,31);4-5,7-8H,1-3H2,(H,12,13)(H,14,16)(H,15,17)(H,18,19)/t18-,20-,21-;/m0./s1
